Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROSURGERY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
C3-C4 symptomatic cord compression. 
 
Major Surgical or Invasive Procedure:
C3-C4 ACDF
 
History of Present Illness:
___ with history of obesity, thyromegaly and insomnia who 
presented for work-up of neck pain and radicular symptoms in her 
LUE and RLE who was found to have a large disc extrusion at 
C3-C4 and was asked to present to the ED for neurosurgical 
evaluation. 

Patient reported that she fell on the back of her neck while on 
a trampoline about a year ago. She heard a crack and felt 
immediate pain in her neck at the time. Since then she has had 
intermittent pain which has worsened and now wakes her at night. 
She reports numbness in her LUE as well as her anterior RLE with 
associated
"pins and needles" x ___ weeks. 

 
Past Medical History:
Obesity
thyromegaly
insomnia

 
Social History:
___
Family History:
N/c
 
Physical Exam:
EXAM ON DISCHARGE

General:
24 HR Data (last updated ___ @ 1015)
    Temp: 97.9 (Tm 98.3), BP: 120/75 (103-121/62-76), HR: 77
(73-90), RR: 18, O2 sat: 95% (94-97), O2 delivery: RA  
Bowel Regimen: [x]Yes [ ]No    Last BM: PTA

Exam:

Opens eyes: [x ]spontaneous [ ]to voice [ ]to noxious

Orientation: [ x]Person [ x]Place [ x]Time

Follows commands: [ ]Simple [ x]Complex [ ]None

Pupils: Equal and reactive to light bilaterally 

Face Symmetric: [x ]Yes [ ]NoTongue Midline: [x]Yes [ ]No
Speech Fluent: [x ]Yes [ ]No

Comprehension intact [x ]Yes [ ]No

Pain to back of neck ___. 
no issues swallowing or difficulty breathing. 

Motor:
TrapDeltoidBicepTricepGrip
___

IPQuadHamATEHLGast
Right 55       5       5       5       5
Left___

[ -]Clonus [ -___ [ x]Sensation intact to light touch

Wound: 
          [ x]Clean, dry, intact 
          [ ]Abnormal
[x ]Steris [ ]Suture [ ]Staples [ ]None
 
Pertinent Results:
See WebOMR
 
Brief Hospital Course:
Patient presented as a same day admission for surgery. The 
patient was taken to the operating room on ___  for C3-C4 ACDF , 
which the patient tolerated well. For full details of the 
procedure please see the separately dictated operative report. 
The patient was taken from the OR to the PACU in stable 
condition and after satisfactory recovery from anesthesia was 
transferred to the floor. The patient was initially given IV 
fluids and IV pain medications, and progressed to a regular diet 
and oral medications by POD#1. The patient was given 
___ antibiotics and anticoagulation per routine. The 
patient's home medications were continued throughout this 
hospitalization. The patient worked with ___ who determined that 
discharge to [] was appropriate. The ___ hospital course 
was otherwise unremarkable.

At the time of discharge the patient's pain was well controlled 
with oral medications, incisions were clean/dry/intact, and the 
patient was voiding spontaneously. She had baseline cervical x 
ray and will follow up with Dr. ___ in 4 weeks  with 
follow up x rays. A thorough discussion was had with the patient 
regarding the diagnosis and expected post-discharge course 
including reasons to call the office or return to the hospital, 
and all questions were answered. The patient was also given 
written instructions concerning precautionary instructions and 
the appropriate follow-up care. The patient expressed readiness 
for discharge.
 
Medications on Admission:
Boric Acid as needed. 
 
Discharge Medications:
1.  Acetaminophen 1000 mg PO Q8H Duration: 15 Days 
RX *acetaminophen 500 mg 2 tablet(s) by mouth every eight (8) 
hours Disp #*60 Tablet Refills:*0 
2.  Bisacodyl 10 mg PO DAILY:PRN Constipation - Second Line 
RX *bisacodyl 5 mg 1 lozenge by mouth daily as needed Disp #*15 
Tablet Refills:*0 
3.  Cepacol (Sore Throat Lozenge) 1 LOZ PO Q2H:PRN sore throat 
RX *dextromethorphan-benzocaine [Cepacol Sorethroat-Cough] 5 
mg-7.5 mg 1 lozenge(s) by mouth every 2 hours as needed for pain 
Disp #*30 Lozenge Refills:*0 
4.  Diazepam 5 mg PO Q8H Duration: 24 Hours 
RX *diazepam 5 mg 1 tab by mouth every 8 hours as needed Disp 
#*12 Tablet Refills:*0 
5.  Docusate Sodium 100 mg PO BID 
RX *docusate sodium 100 mg 1 capsule(s) by mouth twice a day 
Disp #*40 Capsule Refills:*0 
6.  OxyCODONE (Immediate Release) 5 mg PO Q4H:PRN Pain - 
Moderate 
RX *oxycodone 5 mg 1 tablet(s) by mouth every 4 hours as needed 
for pain Disp #*20 Tablet Refills:*0 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
C3-C4 symptomatic cord compression
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
 
Discharge Instructions:
Surgery
• Your dressing may come off on the second day after surgery. 
• Your incision is closed with dissolvable sutures underneath 
the skin and steri strips. You do not need suture removal. Do 
not remove your steri strips, let them fall off.
• Please keep your incision dry for 72 hours after surgery.
• Please avoid swimming for two weeks.
• Call your surgeon if there are any signs of infection like 
redness, fever, or drainage. 

Activity
• We recommend that you avoid heavy lifting, running, climbing, 
or other strenuous exercise until your follow-up appointment.
• You make take leisurely walks and slowly increase your 
activity at your own pace. ___ try to do too much all at once.
• No driving while taking any narcotic or sedating medication. 
• No contact sports until cleared by your neurosurgeon. 
• Do NOT smoke. Smoking can affect your healing and fusion.

Medications
• Please do NOT take any blood thinning medication (Aspirin, 
Ibuprofen, Plavix, Coumadin) until cleared by the neurosurgeon. 
• Do not take any anti-inflammatory medications such as Motrin, 
Advil, Aspirin, and Ibuprofen etc… for 2 weeks.
• You may use Acetaminophen (Tylenol) for minor discomfort if 
you are not otherwise restricted from taking this medication.
• It is important to increase fluid intake while taking pain 
medications. We also recommend a stool softener like Colace. 
Pain medications can cause constipation. 

 
Followup Instructions:
___